US04785006
6-Methoxy-1,2,3,4-tetrahydronaphthalen-1-one (17.6 g, 0.1 mol), 2,6-dimethylmorpholine hydrochloride (15.1 g, 0.1 mol), and paraformaldehyde (6.0 g, 0.2 mol) were refluxed together in ethanol (50 ml) with concentrated hydrochloric acid (0.25 ml) as a catalyst for 3 hours. The reaction was cooled and poured into water containing concentrated hydrochloric acid (5 ml) and extracted with ether (200 ml). The aqueous solution was cooled in ice and neutralised with sodium hydroxide solution (10%) then extracted with ether (2×200 ml) dried over magnesium sulphate and evaporated under reduced pressure to give a residue which was recrystallised from petrol (60°-80°) to give 6-methoxy-2-(2,6-dimethylmorpholinomethyl)-1,2,3,4-tetrahydronaphthalen-1-one a white crystalline solid (10 g, 33% yield) melting at 110° C.

reactant | 6-Methoxy-1,2,3,4-tetrahydronaphthalen-1-one | 0.1 mol, 17.6 g | COC=1C=C2CCCC(C2=CC1)=O | C11H12O2
reactant | 2,6-dimethylmorpholine hydrochloride | 0.1 mol, 15.1 g | Cl.CC1CNCC(O1)C
reactant | paraformaldehyde | 0.2 mol, 6.0 g | C=O | CH2O
reactant | water | 5 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | hydrochloric acid | 0.25 ml | Cl | ClH
product | 6-methoxy-2-(2,6-dimethylmorpholinomethyl)-1,2,3,4-tetrahydronaphthalen-1-one | COC=1C=C2CCC(C(C2=CC1)=O)CN1CC(OC(C1)C)C | C18H25NO3
